US08198311B2
To a solution of (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol (318 mg, 1.0 mmol) and (1-methoxy-2-phenylvinyloxy)trimethylsilane (3 mmol) which was prepared using General Silyl Ketene Acetal Method A in 10 mL of dry DCM was added TiCl4 (1.0 mL of 1.0 M DCM solution, 1.0 mmol) and then stirred 1 h. The reaction was quenched with MeOH, poured into aqueous sodium bicarbonate and extracted 2× EtOAc. The organic layers were dried over MgSO4, filtered, concentrated and purified on SiO2 by MPLC using a EtOAc/hexane gradient to give 376 mg (84% yield) of methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,3-diphenylpropanoate. MS found: (M+H)+=451.

reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methanol | 1.0 mmol, 318 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(O)C1=CC=CC=C1 | C20H15FN2O
reactant | (1-methoxy-2-phenylvinyloxy)trimethylsilane | 3 mmol | COC(=CC1=CC=CC=C1)O[Si](C)(C)C | C12H18O2Si
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.0 mmol, 1.0 M, 1.0 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,3-diphenylpropanoate | 376 mg, 84% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C29H23FN2O2
